US08686022B2
5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-benzoic acid
1.29 g methyl 5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-benzoate are dissolved in 25 ml of tetrahydrofuran, combined with 4 ml of 4 N sodium hydroxide solution and heated for 2 hours to 40° C. Then the mixture is heated for 12 hours to 60° C., then a further 2 ml of 4 N sodium hydroxide solution are added and the mixture is heated for a further 12 hours to 60° C. It is then evaporated down in vacuo, the residue is taken up in water and the pH is adjusted to 5 by the addition of 4 N hydrochloric acid. It is extracted 5 times with dichloromethane/isopropanol 4:1 and the combined organic phases are dried on magnesium sulphate. The solvents are eliminated in vacuo and the product thus obtained is further reacted directly.

reactant | methyl 5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-benzoate | 1.29 g | C(C)(C)(C)C=1C=C(C(=C(C(=O)OC)C1)OC)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1N(CCC1)C)C | C34H45N5O5
reactant | sodium hydroxide | 4 N, 4 ml | [OH-].[Na+]
reactant | sodium hydroxide | 4 N, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-benzoic acid | C(C)(C)(C)C=1C=C(C(=C(C(=O)O)C1)OC)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1N(CCC1)C)C | C33H43N5O5
